US07737166B2
2-Amino-5-bromo-4-fluoro-3-methoxy-6-methylbenzonitrile (I-45)
Under nitrogen atmosphere, water (0.1 ml), zinc cyanide (59 mg, 0.5 mmol), 1,1′-bis(diphenylphosphino)ferrocene (67 mg, 0.12 mmol), bis(dibenzylideneacetone)palladium(0) (58 mg, 0.1 mmol) were added to an N,N-dimethylformamide (10 ml) solution of 4-bromo-3-fluoro-6-iodo-2-methoxy-5-methylphenylamine (I-44) (359 mg, 1.0 mmol), followed by stirring at 120 to 130° C. for 3 hours. After cooling to room temperature, saturated brine was added to the reaction liquid, followed by extraction twice with ethyl acetate, the organic layer was washed with saturated brine, then dried over anhydrous magnesium sulfate. After filtration and concentration under reduced pressure, the resulting residue was subjected to column chromatography, and the eluate with n-hexane:ethyl acetate (10:1) was concentrated under reduced pressure to obtain the entitled compound (208 mg, 80%) as a white solid.

reactant | water | 0.1 ml | O | H2O
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | 4-bromo-3-fluoro-6-iodo-2-methoxy-5-methylphenylamine | 1.0 mmol, 359 mg | BrC1=C(C(=C(C(=C1C)I)N)OC)F | C8H8BrFINO
solvent | brine | [Cl-].[Na+].O
catalyst | zinc cyanide | 0.5 mmol, 59 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.12 mmol, 67 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.1 mmol, 58 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | 2-Amino-5-bromo-4-fluoro-3-methoxy-6-methylbenzonitrile | 208 mg, 80% | NC1=C(C#N)C(=C(C(=C1OC)F)Br)C | C9H8BrFN2O
